US04831041
To a solution of 2-methyl-3-(2-propynyl)-8-(2-pyruvamido-6-methylbenzyloxy)imidazo[1,2-a]pyridine (287 mg) in the mixture of acetic acid (0.13 ml) and ethanol (3 ml), sodium cyanoborohydride (72 mg) was added portionwise for 2.5 hours at 5° C. The mixture was poured into a saturated aqueous solution of sodium hydrogen carbonate and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (10 g) and eluted with a mixture of chloroform and methanol (100.1) to give 8-(2-lactamido-6-methylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (138 mg).

reactant | 2-methyl-3-(2-propynyl)-8-(2-pyruvamido-6-methylbenzyloxy)imidazo[1,2-a]pyridine | 287 mg | CC=1N=C2N(C=CC=C2OCC2=C(C=CC=C2C)NC(C(=O)C)=O)C1CC#C | C22H21N3O3
reactant | acetic acid | 0.13 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 72 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 8-(2-lactamido-6-methylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 138 mg | C(C(O)C)(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)C | C22H23N3O3
